US06150373
A dry-ice/acetone cooled solution of 1 g (6.1 mmol) of 3-(2-amino-2-methyl-propyl)-aniline in 30 ml of tetrahydrofuran was treated dropwise with a solution of 1.13 g (6.1 mmol) of di-tert-butyl dicarbonate in 20 ml of tetrahydrofuran. The cooling was removed after 1 hour and the mixture allowed to warm to ambient temperature and stirred at this temperature for 2 hours. 40 ml of saturated aqueous ammonium chloride was added. The organic phase was dried over magnesium sulfate, filtered and evaporated. The product was purified by flash chromatography on silica gel using diethyl ether/isohexane in a ratio of 1:1 as eluent to give 960 mg (60%) of (2-(3-aminophenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester as a white solid. [Mass spectrum (ESI) MH+ =265].

reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 3-(2-amino-2-methyl-propyl)-aniline | 6.1 mmol, 1 g | NC(CC=1C=C(N)C=CC1)(C)C | C10H16N2
reactant | di-tert-butyl dicarbonate | 6.1 mmol, 1.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2-(3-aminophenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 960 mg, 60% | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N)(C)C)=O | C15H24N2O2
